US09233946B2
5-Methyl-N-[3-(1H-tetrazol-5-yl)phenyl]-1-benzothiophene-2-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, starting from 5-methyl-benzothiophene-2-sulfonyl chloride (30 mg, 0.12 mmol) and 5-(3-aminophenyl)tetrazole (20 mg, 0.12 mmol) giving the title compound as a white solid (11 mg, 25%). 1H NMR (400 MHz, MeOH-d4) δ ppm 2.40 (s, 3 H) 7.25-7.30 (m, 1 H) 7.34-7.40 (m, 1 H) 7.45 (t, J=7.91 Hz, 1 H) 7.62-7.65 (m, 1 H) 7.68-7.74 (m, 2 H) 7.78 (s, 1 H) 7.94 (t, J=1.88 Hz, 1 H). MS (ESI+) calcd for C16 H13N5O2S2 371.051066, found 371.050166.

reactant | 5-methyl-benzothiophene-2-sulfonyl chloride | 0.12 mmol, 30 mg | CC=1C=CC2=C(C=C(S2)S(=O)(=O)Cl)C1 | C9H7ClO2S2
reactant | 5-(3-aminophenyl)tetrazole | 0.12 mmol, 20 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 5-Methyl-N-[3-(1H-tetrazol-5-yl)phenyl]-1-benzothiophene-2-sulfonamide | 11 mg, 25% | CC=1C=CC2=C(C=C(S2)S(=O)(=O)NC2=CC(=CC=C2)C2=NN=NN2)C1 | C16H13N5O2S2
